US08283364B2
1,1-Dimethylethyl 4-[(2-amino-5-cyclopropyl-3-fluorophenyl)amino]-1-piperidinecarboxylate (D27)
1,1-Dimethylethyl 4-[(5-cyclopropyl-3-fluoro-2-nitrophenyl)amino]-1-piperidinecarboxylate (D26, 0.8 mmol, 300 mg) was dissolved in MeOH (15 ml) and it was reduced by THALIS H-CUBE apparatus (bought from Asynt) using a palladium cartridge. The process yielded 280 mgs of the title compound, complete conversion, M+−COOC(CH3)3=250.

reactant | 1,1-Dimethylethyl 4-[(5-cyclopropyl-3-fluoro-2-nitrophenyl)amino]-1-piperidinecarboxylate | 0.8 mmol, 300 mg | C1(CC1)C=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-])F | C19H26FN3O4
solvent | MeOH | 15 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 1,1-Dimethylethyl 4-[(2-amino-5-cyclopropyl-3-fluorophenyl)amino]-1-piperidinecarboxylate | 280 mgs | NC1=C(C=C(C=C1F)C1CC1)NC1CCN(CC1)C(=O)OC(C)(C)C | C19H28FN3O2
